US09302991B2
<Step-1>:methyl 6-chloro-5-ethoxynicotinate
The title compound is prepared in 43% yield (0.68 g, a white solid) from methyl 6-chloro-5-hydroxynicotinate (1.37 g, 7.28 mmol) and iodoethane instead of iodomethane by the similar manner in Step-2 of Amine-4.

reactant | methyl 6-chloro-5-hydroxynicotinate | 7.28 mmol, 1.37 g | ClC1=NC=C(C(=O)OC)C=C1O | C7H6ClNO3
reactant | iodoethane | ICC | C2H5I
product | methyl 6-chloro-5-ethoxynicotinate | 43% yield | ClC1=NC=C(C(=O)OC)C=C1OCC | C9H10ClNO3
